datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([O:3])([C:4]([C:5]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2](=[O:3])[H:9])[H:8])([H:6])[H:7].[C:4]([C:5]([H:12])([H:13])[H:14])([H:10])[H:11],44.64328
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([O:8][O:9])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:9][O:8][C:7]([C:6]([H:10])([H:11])[H:12])([H:13])[H:14],113.520288
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]=[C:9]([H:18])[H:19])([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])[H:20])[H:4],51.7142
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:14][H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:15])[H:7])([H:5])[H:6].[H:14],94.9768
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22])[H:9])([H:7])[H:8],28.7022
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25])([H:5])([H:6])[H:7],0.8368
[H:0].[N:1]=[N:2][H:3]>>[H:0][H:3].[N:1]#[N:2],-3.72376
[C:0](=[C:1]([H:3])[H:4])[H:2].[C:5](=[C:6]([H:8])[H:9])[H:7]>>[C:0](=[C:1]([H:3])[H:4])([H:2])[H:8].[C:5](#[C:6][H:9])[H:7],0.0
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:16]>>[C:0](=[C:1]([c:2]1[c:3][c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:11][H:16],23.8625
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[S:8]([c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[S:8][c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20],33.0536
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35],29.3298
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([S:14][H:24])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:21])([H:22])[H:23])([S:14][H:24])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29],33.0536
[C:0](#[C:1][C:2]1([H:8])[C:3]=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])([C:6](=[C:5][H:10])[H:11])[H:8])[H:7],168.48968
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([O:3])[C:10]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6],48.1578
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]1([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:15])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]1[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:15])[H:16])[H:17])([H:9])([H:10])[H:11],143.093
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:9])[H:8])([H:6])[H:7],45.9403
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[O:11]>>[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:6])[H:7].[H:5][O:11],24.618656
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[O:13]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]=[O:4])[H:8])([H:5])([H:6])[H:7].[H:12][O:13],5.811576
[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])[O:4][H:11])([H:5])([H:6])[H:7].[O:12][O:13]>>[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])([O:4][H:11])[O:12][O:13])([H:5])([H:6])[H:7],0.0
